US04035566
A solution containing 5.0 mg. of N-trifluoroacetyladriamycin dissolved in 0.5 ml. of anhydrous pyridine was treated with 18 microliters of valeroyl chloride, which was added in small portions over a two-day period. The reaction was monitored by thin layer chromatography and when the presence of N-trifluoroacetyladriamycin could no longer be observed, the reaction mixture was diluted with 10 ml. of chloroform. The chloroform solution was extracted three times with pH 4 gaseous buffer and once with pH 7 buffer. The dried chloroform solution was then evaporated under reduced pressure, and the residue was purified by preparative thin layer chromatography on silica gel G with chloroform:methanol:water (120:20:1 by volume) as the solvent system. The major orange-colored band was removed and washed free of silica gel with a mixture of methanol and ethyl acetate. Upon evaporation of the methanol and ethyl acetate, 2.19 mg. of N-trifluoroacetyladriamycin-14-valerate was obtained. This material was idential by spectral and chromatographic comparison with samples of N-trifluoroacetyladriamycin-14-valerate prepared by the earlier described methods.

reactant | N-trifluoroacetyladriamycin | C[C@H]1[C@H]([C@H](C[C@@H](O1)O[C@H]2C[C@@](CC3=C(C4=C(C(=C23)O)C(=O)C5=C(C4=O)C=CC=C5OC)O)(C(=O)CO)O)NC(=O)C(F)(F)F)O | C29H28F3NO12
reactant | pyridine | N1=CC=CC=C1 | C5H5N
reactant | valeroyl chloride | 18 microliters | C(CCCC)(=O)Cl | C5H9ClO
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | N-trifluoroacetyladriamycin-14-valerate | CCCCC(=O)OCC(=O)[C@]1(C[C@@H](C2=C(C3=C(C(=C2C1)O)C(=O)C4=C(C3=O)C(=CC=C4)OC)O)OC5CC(C(C(O5)C)O)NC(=O)C(F)(F)F)O | C34H36F3NO13
